US09145392B2
Step 4: benzyl 4-(4-(4-fluoro-3-(trifluoromethyl)phenyl)-1H-imidazol-2-yl)piperidine-1-carboxylate
To 4-(4-(4-fluoro-3-(trifluoromethyl)phenyl)-1H-imidazol-2-yl)piperidine hydrochloride salt (1510.00 mg; 3.91 mmol; 1.00 eq.) in DCM was added Ethyldiisopropylamine (2.81 ml; 15.64 mmol; 4.00 eq.) and stirred for 5 mins. N-(Benzyloxycarbonyloxy) succinimide (1169.26 mg; 4.69 mmol; 1.20 eq.) was then added. The reaction mixture was stirred at RT overnight. The reaction mixture was diluted with DCM, washed with water, 5% NaHCO3 aq and brine. The organic layer was dried and concentrated. The residue was subjected to SNAP column (100 g), eluted with 20-80% EA in hexane to afford the title compound (1310 mg, yield 74.9%).

reactant | 4-(4-(4-fluoro-3-(trifluoromethyl)phenyl)-1H-imidazol-2-yl)piperidine hydrochloride salt | 3.91 mmol, 1510.00 mg, 1.00 eq. | Cl.FC1=C(C=C(C=C1)C=1N=C(NC1)C1CCNCC1)C(F)(F)F
reactant | Ethyldiisopropylamine | 15.64 mmol, 2.81 ml, 4.00 eq. | C(C)N(C(C)C)C(C)C | C8H19N
reactant | N-(Benzyloxycarbonyloxy) succinimide | 4.69 mmol, 1169.26 mg, 1.20 eq. | C(C1=CC=CC=C1)OC(=O)ON1C(CCC1=O)=O | C12H11NO5
solvent | DCM | C(Cl)Cl | CH2Cl2
product | benzyl 4-(4-(4-fluoro-3-(trifluoromethyl)phenyl)-1H-imidazol-2-yl)piperidine-1-carboxylate | 1310 mg, yield 74.9% | FC1=C(C=C(C=C1)C=1N=C(NC1)C1CCN(CC1)C(=O)OCC1=CC=CC=C1)C(F)(F)F | C23H21F4N3O2
